US05561142
Hexyl iodide (50 mmol, 7.38 ml) was added to a mixture of 2-amino acetaldehyde dimethyl acetal (100 mmol, 11 ml) and potassium carbonate (50 mmol, 6.9 g) in DMF (10 ml) at 0° C. Stirring was continued for 16h before diluting with ethyl acetate (200 ml), and ffitering the solution through a plug of celite. Concentration in vacuo was follwed by column chromatography (eluant ethyl acetate) to give N-hexyl 2-amino acetaldehyde dimethyl acetal (7.39 g, 78%) as a colourless oil.

reactant | Hexyl iodide | 50 mmol, 7.38 ml | C(CCCCC)I | C6H13I
reactant | 2-amino acetaldehyde dimethyl acetal | 100 mmol, 11 ml | COC(CN)OC | C4H11NO2
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-hexyl 2-amino acetaldehyde dimethyl acetal | 7.39 g, 78% | COC(CNCCCCCC)OC | C10H23NO2
